US06150303
4-Chloro-3-(4'-chloro-3'-nitrophenyl)-5-hydroxy-5-trifluoromethyl isoxazoline
At 5° C., 1.81 ml of a mixture of 0.46 ml of 98% strength nitric acid and 1.35 ml of concentrated sulfuric acid were added dropwise to 2.4 g of 3-(4'-chlorophenyl)-4-chloro-5-hydroxy-5-trifluoromethylisoxazoline in 20 ml of concentrated sulfuric acid. The reaction mixture was stirred at 5° C. for 1.5 hours and then poured into 300 ml of ice-water. The organic phase was subsequently separated off, dried over sodium sulfate and finally concentrated. Yield: 2.5 g.

reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
reactant | 3-(4'-chlorophenyl)-4-chloro-5-hydroxy-5-trifluoromethylisoxazoline | 2.4 g | ClC1=CC=C(C=C1)C1=NOC(C1Cl)(C(F)(F)F)O | C10H6Cl2F3NO2
solvent | sulfuric acid | 20 ml | S(O)(O)(=O)=O | H2O4S
solvent | sulfuric acid | 1.35 ml | S(O)(O)(=O)=O | H2O4S
product | 4-Chloro-3-(4'-chloro-3'-nitrophenyl)-5-hydroxy-5-trifluoromethyl isoxazoline | ClC1C(=NOC1(C(F)(F)F)O)C1=CC(=C(C=C1)Cl)[N+](=O)[O-] | C10H5Cl2F3N2O4
